US05409943
(a) 2-Amino-3-(2-bromobenzyloxy)pyridine
A mixture of 2-bromobenzyl bromide (50 g, 0.20 mol) and 2-amino-3-hydroxypyridine (20.0 g, 0.18 mol) in 40% aqueous sodium hydroxide solution (200 ml) and dichloromethane (200 ml) was treated with Adogen 464 (5 ml) and stirred vigorously at room temperature for 16 hours. A further 200 ml of water was added and the product extracted into dichloromethane, dried, and the solvent evaporated to obtain the product (35.4 g, 63%), m.p. 99°-100° C.

reactant | 2-bromobenzyl bromide | 0.20 mol, 50 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | 2-amino-3-hydroxypyridine | 0.18 mol, 20.0 g | NC1=NC=CC=C1O | C5H6N2O
reactant | water | 200 ml | O | H2O
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino-3-(2-bromobenzyloxy)pyridine | 35.4 g, 63% | NC1=NC=CC=C1OCC1=C(C=CC=C1)Br | C12H11BrN2O
